US06376496B1
1-(4-cyanobenzyl)-5-[1-(trans-4-pentylcyclohexanoyl-)piperazin-4-ylmethyl]imidazole
Trans-4-pentylcyclohexane carboxylic acid (0.4 mmol) and 1-(4-cyanobenzyl)-5-(1H-piperazin-4-yl)methylimidazole prepared as described in Example 2, step 2 (0.36 mmol) were dissolved in DMF (1 mL) and then 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.44 mmol), 1-Hydroxybenzotriazole hydrate (0.44 mmol) and triethylamine (1.44 mmol) were added. The reaction stirred overnight at room temperature, was run through a glass syringe filter and purified by preparative HPLC. The product was converted to the Bis-hydrochloride salt by exposure of a dichloromethane solution of the product to excess ethereal HCl. Concentration in vacuo provided the title compound as a white powder (68 mg).1H-NMR (CD3OD): 9.06 (s, 1H); 7.89 (s, 1H); 7.83 (d, 2H); 7.51 (d, 2H); 5.76 (s, 2H); 4.1 (m, 2H); 3.7 (m, 4H); 2.93 (m, 4H); 2.59 (t, 1H); 1.81 (d, 2H); 1.73 (d, 2H); 1.41 (q, 2H); 1.2-1.4 (m, 9H); 1.05 (q, 2H); 0.88 (t, 3H). MS: found 462.4 (M+H).

reactant | Trans-4-pentylcyclohexane carboxylic acid | 0.4 mmol | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.44 mmol | Cl.CN(CCCN=C=NCC)C
reactant | 1-Hydroxybenzotriazole hydrate | 0.44 mmol | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 1.44 mmol | C(C)N(CC)CC | C6H15N
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(4-cyanobenzyl)-5-[1-(trans-4-pentylcyclohexanoyl-)piperazin-4-ylmethyl]imidazole | 68 mg | C(#N)C1=CC=C(CN2C=NC=C2CN2CCN(CC2)C(=O)[C@@H]2CC[C@H](CC2)CCCCC)C=C1 | C28H39N5O
